US08293926B2
Synthesis of (R)-4-amino-3-(4-chlorophenyl)butanoic acid
Under a nitrogen atmosphere, methyl (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylate (3.80 g, 15.0 mmol) was suspended in 1,2-dichlorobenzene (25 ml), and the suspension was poured into 6 mol/L hydrochloric acid (15.2 g). The mixture was reacted at 105° C. for 9 hours, then, cooled to 80° C. and the organic layer was separated by a liquid-separation operation. The aqueous layer was washed with 1,2-dichlorobenzene (11 ml), then, neutralized with a 20% sodium hydroxide aqueous solution to adjust pH to 7. The mixture was cooled to 15° C. and thermally insulated for 1 hour, then, the crystallized crystal was filtrated, and dried under reduces pressure, to obtain a title compound (2.69 g, 12.6 mmol)(yield: 84%). The optical purity of the resultant title compound was measured by HPLC to find a value of 99.9% ee or more (conditions are shown below).

reactant | methyl (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylate | 15.0 mmol, 3.80 g | ClC1=CC=C(C=C1)[C@H]1[C@@H](C(NC1)=O)C(=O)OC | C12H12ClNO3
reactant | hydrochloric acid | 6 mol/L, 15.2 g | Cl | ClH
solvent | 1,2-dichlorobenzene | 25 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | (R)-4-amino-3-(4-chlorophenyl)butanoic acid | 12.6 mmol, 2.69 g, yield: 84% | NC[C@H](CC(=O)O)C1=CC=C(C=C1)Cl | C10H12ClNO2
